US07807709B2
a. 4-Methoxy-3-(3,3,3-trifluoro-propoxy)-benzoic acid ethyl ester
The mixture of 3-hydroxy-4-methoxy-benzoic acid ethyl ester (1.75 g, 8.92 mmol), methanesulfonic acid 3,3,3-trifluoro-propyl ester (2.06 g, 10.7 mmol) and anhydrous K2CO3 (2.49 g, 17.8 mmol) in acetone (20 mL) is heated with stirring at reflux temperature overnight. After cooling, the mixture is diluted with AcOEt followed by washing of the organic phase with 2N aqueous NaOH and brine. The organic layer is dried over Na2SO4 and evaporated, and the crude product is purified by silica gel chromatography (eluent: hexane/AcOEt 5:1) to give the title compound as oil. TLC, Rf (hexane/AcOEt 1:1)=0.59. MS: 293.0 [M+H]+. 1H-NMR (CDCl3): δ 1.42 (t, 3H), 2.74 (m, 2H), 3.96 (s, 3H), 4.33 (m, 2H), 4.40 (m, 2H), 6.94 (m, 1H), 7.59 (s, 1H), 7.77 (m, 1H) ppm.

reactant | 3-hydroxy-4-methoxy-benzoic acid ethyl ester | 8.92 mmol, 1.75 g | C(C)OC(C1=CC(=C(C=C1)OC)O)=O | C10H12O4
reactant | methanesulfonic acid 3,3,3-trifluoro-propyl ester | 10.7 mmol, 2.06 g | FC(CCOS(=O)(=O)C)(F)F | C4H7F3O3S
reactant | K2CO3 | 17.8 mmol, 2.49 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-Methoxy-3-(3,3,3-trifluoro-propoxy)-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OC)OCCC(F)(F)F)=O | C13H15F3O4
